US09260436B2
60 mg of 3-chloroperbenzoic acid (purity of 65% or more) was added to a mixture of 40 mg of 2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine and 3 ml of chloroform, under ice cooling, and the mixture was stirred at room temperature for 4 hours. A 10% aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 44 mg of 2-(2-ethylsulfonylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine (Compound of Present Invention 19).

reactant | 3-chloroperbenzoic acid | 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine | 40 mg | C(C)SC1=C(C=CC=C1)C=1N=CC2=C(N1)C=C(C=N2)C(F)(F)F | C16H12F3N3S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethylsulfonylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine | 44 mg | C(C)S(=O)(=O)C1=C(C=CC=C1)C=1N=CC2=C(N1)C=C(C=N2)C(F)(F)F | C16H12F3N3O2S
